US06610707B1
Dess-Martin reagent (814 mg) was added to a stirred solution of (2S)-1-[(4-fluorophenyl)sulfonyl]-N2-(2-hydroxypropyl)-2-piperidinecarboxamide (548 mg) [see Preparation 80) and triethylamine (0.89 ml) in dichloromethane (20 ml). The reaction mixture was stirred for 1 hr after which time the mixture was filtered through a pad of basic alumina and washed through with dichloromethane to afford (2S)-1-[(4-fluorophenyl)sulfonyl]-N2-(2-oxopropyl)-2-piperidinecarboxamide (300 mg).

reactant | Dess-Martin reagent | 814 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (2S)-1-[(4-fluorophenyl)sulfonyl]-N2-(2-hydroxypropyl)-2-piperidinecarboxamide | 548 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)NCC(C)O | C15H21FN2O4S
reactant | triethylamine | 0.89 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2S)-1-[(4-fluorophenyl)sulfonyl]-N2-(2-oxopropyl)-2-piperidinecarboxamide | 300 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)NCC(C)=O | C15H19FN2O4S
